US05753664
2-[2-[4-(4-Chlorobenzoyl)phenyl]ethyl]-3,5-dimethyl-4(3H)-quinazolinone
To a solution of 2-[2-[4-(4-chlorobenzoyl)phenyl]-vinyl]-3,5-dimethyl-4(3H)-quinazolinone (104 mg) in THF-ethyl acetate-methanol (2:1:1) (20 ml) was added 10% Pd/C (50% hydrous) (10 mg) and the mixture was stirred under hydrogen at room temperature for 2 hours. The catalyst was then filtered off and the filtrate was concentrated. The residue was washed with ethyl acetate-methanol and dried to provide 53 mg of white powder.

reactant | 2-[2-[4-(4-chlorobenzoyl)phenyl]-vinyl]-3,5-dimethyl-4(3H)-quinazolinone | 104 mg | ClC1=CC=C(C(=O)C2=CC=C(C=C2)C=CC2=NC3=CC=CC(=C3C(N2C)=O)C)C=C1 | C25H19ClN2O2
solvent | THF ethyl acetate methanol | 20 ml | C1CCOC1.C(C)(=O)OCC.CO
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 2-[2-[4-(4-Chlorobenzoyl)phenyl]ethyl]-3,5-dimethyl-4(3H)-quinazolinone | 53 mg | ClC1=CC=C(C(=O)C2=CC=C(C=C2)CCC2=NC3=CC=CC(=C3C(N2C)=O)C)C=C1 | C25H21ClN2O2
